US07244758B2
B. Synthesis of (1-benzyl-pyrrolidin-3-ylmethyl)-carbamic acid tert-butyl ester methyl amine
A solution of (1-benzyl-pyrrolidin-3-ylmethyl)-methyl amine (1.03 g, 5.04 mmol) in THF (30 ml), water (1 ml) and NaOH (0.5 ml) was cooled to 0° C. (BOC)2O (1.32 g, 6.05 mmol) was then added and reaction was stirred at room temperature for 2 hrs. The solvent was evaporated and the residue was partitioned between 2N aq. NaOH and CH2Cl2. The organic phase was washed with brine, dried and evaporated to dryness to give the desired product in 92% yield.

reactant | (1-benzyl-pyrrolidin-3-ylmethyl)-methyl amine | 5.04 mmol, 1.03 g | C(C1=CC=CC=C1)N1CC(CC1)CNC | C13H20N2
reactant | (BOC)2O | 6.05 mmol, 1.32 g | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | water | 1 ml | O | H2O
solvent | NaOH | 0.5 ml | [OH-].[Na+]
product | (1-benzyl-pyrrolidin-3-ylmethyl)-carbamic acid tert-butyl ester methyl amine | 92% yield | CN.C(C)(C)(C)OC(NCC1CN(CC1)CC1=CC=CC=C1)=O | InChI=1S/C17H26N2O2.CH5N/c1-17(2,3)21-16(20)18-11-15-9-10-19(13-15)12-14-7-5-4-6-8-14;1-2/h4-8,15H,9-13H2,1-3H3,(H,18,20);2H2,1H3
